US06492416B1
To a stirred solution of 1-ethynyl-cyclohexan-1-ol (3.2 g) in 80 ml dry THF at −78° C. and under argon, was added dropwise 35 ml of 2.5 M butyllithium in hexane over 10 minutes. The reaction solution was stirred for another 20 minutes, which was followed by the dropwise addition of 4-methylthiobenzaldehyde (3.2 ml). After stirred for another 2 hours, the reaction was quenched by adding dilute aqueous HCl. The reaction solvent was removed in vacuo, and the resulting aqueous solution was extracted with dichloromethane. The organic layer was concentrated under reduced pressure and the resulting residue was purified by column chromatography (hexane/ethylacetate) to yield 4.67 g of 1-[3-hydroxy-{4-(methylthio)phenyl}-prop-1-ynyl]-cyclohexanol. NMR: δ1.45 (m, 6H), 1.70 (m, 2H), 1.90 (m, 2H), 2.17 (d, 1H), 2.49 (s, 3H), 3.57 (s, 1H), 5.48 (d, J=6.0 Hz 1H), 7.26 (d, J=8.4 Hz, 2H), 7.46 (d, J=8.4 Hz, 2H). IR (cm−1): 3343, 2934, 1445, 1091.

reactant | 1-ethynyl-cyclohexan-1-ol | 3.2 g | C(#C)C1(CCCCC1)O | C8H12O
reactant | butyllithium | 2.5 M, 35 ml | C(CCC)[Li]
reactant | 4-methylthiobenzaldehyde | 3.2 ml | CC1=CC=C(C=S)C=C1 | C8H8S
reactant | THF | 80 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-[3-hydroxy-{4-(methylthio)phenyl}-prop-1-ynyl]-cyclohexanol | 4.67 g | OC(C#CC1(CCCCC1)O)C1=CC=C(C=C1)SC | C16H20O2S
